US05405979
14 g of silica gel is suspended in 30 ml of methylene chloride, mixed with 1.4 ml of saturated oxalic acid solution and stirred for 15 more minutes. 4.67 g (10 mmol) of 3,3;17,17-bis-(ethylenedioxy)-11β-(4-methoxyphenyl)-5-estrene is added to this suspension and the reaction mixture is stirred at room temperature for 4 more hours. Then, it is suctioned off on a frit, the frit residue is rewashed with methanol/methylene chloride and the thus obtained filtrate is shaken out with saturated sodium bicarbonate solution. The organic phase is dried on sodium sulfate and concentrated by evaporation in a vacuum. The residue is chromatographed on silica gel with a mixture of ethyl acetate/hexane. 3.28 g of 3,3-(ethylenedioxy)-11β-(4-methoxyphenyl)-5-estren-17-one is obtained as white foam.

reactant | oxalic acid | 1.4 ml | C(C(=O)O)(=O)O | C2H2O4
reactant | 17,17-bis-(ethylenedioxy)-11β-(4-methoxyphenyl)-5-estrene | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1CC=C3CCCC[C@@H]3[C@H]1[C@H](C4)C4=CC=C(C=C4)OC | C29H38O5
reactant | methanol methylene chloride | CO.C(Cl)Cl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 3,3-(ethylenedioxy)-11β-(4-methoxyphenyl)-5-estren-17-one | 3.28 g | C1OC2(CC3=CC[C@H]4[C@@H]5CCC([C@@]5(C)C[C@@H]([C@@H]4[C@H]3CC2)C2=CC=C(C=C2)OC)=O)OC1 | C27H34O4
